US07279481B2
Methyl [3-(2-oxo-1-imidazolidinyl)phenyl]acetate
Methyl (3-aminophenyl)acetate hydrochloride was suspended in dichloromethane (7 vol) under nitrogen. Diisopropylethylamine (1.04 vol) was added at 20° C. over 30 minutes, and the reaction mixture was stirred for 30 minutes at 20° C. 2-Chloroethyl isocyanate (0.44 vol) was added dropwise at 20° C. over 100 minutes. The reaction mixture was stirred at 20° C. for three hours. A saturated solution of ammonium chloride (5 vol) was added dropwise over 10 mins and the resultant mixture was stirred for ten minutes. The organic phase was separated and washed with water (5 vol). Tetrahydrofuran (2×3 vol) was added and the mixture was concentrated to. 2 vol. Dry tetrahydrofuran (5 vol) was added, and the mixture was concentrated to 2 vol. Dry THF (3 vol) was added, under nitrogen at 20° C. The reaction mixture was cooled to 0° C., and potassium tert-butoxide (0.56 wt) was added portion-wise in 5 stages, allowing 20 minutes between two subsequent additions. The reaction mixture was stirred at 20° C. for one hour. Hydrochloric acid (0.5N, 2 vol) was added dropwise over 20 minutes. Ethyl acetate (10 vol) was added and the organic phase was separated. The organic layer was washed with aqueous sodium hydrogencarboante solution (4%, 2 vol) and brine (2 vol), and the organic layer was then evaporated to dryness under vacuum to give the title compound (overall yield: 90% w/w).

reactant | Methyl (3-aminophenyl)acetate hydrochloride | Cl.NC=1C=C(C=CC1)CC(=O)OC
reactant | Diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-Chloroethyl isocyanate | ClCCN=C=O | C3H4ClNO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | Methyl [3-(2-oxo-1-imidazolidinyl)phenyl]acetate | O=C1N(CCN1)C=1C=C(C=CC1)CC(=O)OC | C12H14N2O3
